US08497265B2
Preparation P26.1. 2-(Azetidin-3-yloxy)-3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridine Hydrochloride
To tert-butyl 3-((3-(3,6-dihydro-2H-pyran-4-yl)pyridin-2-yl)oxy)azetidine-1-carboxylate (see PREPARATION P25.1; 2.3 g, 6.9 mmol) was added 4 M HCl in MeOH (100 mL). The reaction mixture was stirred at room temperature for 2 hours. The solvent was removed to give the title compound (1.5 g, 6.5 mmol, yield 95%).

reactant | tert-butyl 3-((3-(3,6-dihydro-2H-pyran-4-yl)pyridin-2-yl)oxy)azetidine-1-carboxylate | 6.9 mmol, 2.3 g | O1CCC(=CC1)C=1C(=NC=CC1)OC1CN(C1)C(=O)OC(C)(C)C | C18H24N2O4
reactant | HCl | 4 M | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | 2-(Azetidin-3-yloxy)-3-(3,6-Dihydro-2H-Pyran-4-yl)Pyridine Hydrochloride | 6.5 mmol, 1.5 g, yield 95% | Cl.N1CC(C1)OC1=NC=CC=C1C=1CCOCC1 | InChI=1S/C13H16N2O2.ClH/c1-2-12(10-3-6-16-7-4-10)13(15-5-1)17-11-8-14-9-11;/h1-3,5,11,14H,4,6-9H2;1H
